* Schematics Netlist *

.EXTERNAL INPUT +5V
.EXTERNAL INPUT -5V


** AutoGenerated Stimuli from Hierarchical ports **
U_AUTO_STM_113	STIM( 1, 0 ) $G_DPWR $G_DGND +5V IO_STM STIMULUS=+5V
U_AUTO_STM_114	STIM( 1, 0 ) $G_DPWR $G_DGND -5V IO_STM STIMULUS=-5V


V_V8         +5V 0 DC 5  
V_V9         0 -5V DC 5  
R_R6         $N_0002 $N_0001  10k  
R_R7         $N_0001 0  18k  
C_C1         $N_0003 $N_0004  470n  
R_R8         0 $N_0005  15k  
C_C2         $N_0004 $N_0005  470n  
R_R5         $N_0002 $N_0004  15k  
V_V11         $N_0003 0  
+SIN 0 0.5 100 0 0 0
C_C6         $N_0006 $N_0007  330n  
R_R26         $N_0008 $N_0007  10k  
X_U6A         $N_0006 $N_0008 $N_0009 $N_0010 $N_0007 LM324
V_V12         0 $N_0010 DC 5  
V_V13         $N_0009 0 DC 5  
C_C7         0 $N_0006  330n  
R_R27         $N_0011 $N_0006  1k  
R_R25         0 $N_0008  18k  
X_U2A         $N_0005 $N_0001 +5V -5V $N_0002 LM324
R_R28         $N_0002 $N_0011  1k  
